US07842696B2
3-Methyl-2-thiophene carboxylic acid (74 mg, 0.53 mmol) was added to 4-benzyloxy-N-(2-oxo-2-piperazin-1-yl-ethyl)-benzamide (155 mg, 0.44 mmol) in DMF (5 mL). EDCI.HCl (126 mg, 0.66 mmol), HOBT (71 mg, 0.53 mmol) and DIPEA (227 μL, 1.32 mmol) were then added and the resulting mixture was allowed to stir at room temperature overnight. Water was then added and the product was extracted with EtOAc and washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to afford a crude product. Column chromatography purification (using neutral alumina 90:10 EtOAc:MeOH as the eluent) afforded 4-benzyloxy-N-{2-[4-(3-methyl-thiophene-2-carbonyl)-piperazin-1-yl]-2-oxo-ethyl}-benzamide in 46% yield. LC-MS purity: 87%. 1H NMR (DMSO-D6): δ 8.4 (t, 1H), 7.8 (d, 2H), 7.6 (d, 1H), 7.4 (m, 5H), 7.1 (d, 2H), 6.9 (d, 1H), 5.2 (s, 2H), 4.2 (d, 2H), 3.5 (d, 8H), 2.3 (s, 3H).

reactant | 3-Methyl-2-thiophene carboxylic acid | 0.53 mmol, 74 mg | CC1=C(SC=C1)C(=O)O | C6H6O2S
reactant | 4-benzyloxy-N-(2-oxo-2-piperazin-1-yl-ethyl)-benzamide | 0.44 mmol, 155 mg | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NCC(N2CCNCC2)=O)C=C1 | C20H23N3O3
reactant | EDCI.HCl | 0.66 mmol, 126 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.53 mmol, 71 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.32 mmol, 227 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 4-benzyloxy-N-{2-[4-(3-methyl-thiophene-2-carbonyl)-piperazin-1-yl]-2-oxo-ethyl}-benzamide | 46% yield | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NCC(=O)N2CCN(CC2)C(=O)C=2SC=CC2C)C=C1 | C26H27N3O4S
